US07705136B2
To a solution of 6-aminocaproic acid (6.55 g), 50 mmol) in 150 ml of glacial acetic acid methacrylic anhydride (8.7 ml, 55 mmol) were added at room temperature, and resulting mixture was stirred for 12 hours. All volatiles were removed under reduced pressure. Crude material was submitted to column chromatography on silica gel, which was performed in chloroform with applying gradient of methanol (0-7.5%) and gave 8.65 g (87%) of N-methacryloyl-6-aminocaproic acid as white solid. MALDI MS: found 200.06 (M+H)+, C10H17NO3; calc. 199.07.

reactant | 6-aminocaproic acid | 6.55 g | NCCCCCC(=O)O | C6H13NO2
reactant | acetic acid methacrylic anhydride | 55 mmol, 150 ml | C(C(=C)C)(=O)OC(C)=O | C6H8O3
product | N-methacryloyl-6-aminocaproic acid | 8.65 g, 87% | C(C(=C)C)(=O)NCCCCCC(=O)O | C10H17NO3
